* NGSPICE file created from opamp6.ext - technology: sky130A

.subckt sky130_fd_pr__nfet_01v8_T3GQRW B D0 G0 S1 G1
X0 S1 G0 D0 B sky130_fd_pr__nfet_01v8 ad=0.18125 pd=1.54 as=0.3625 ps=3.08 w=1.25 l=1
X1 a_229_n125# G1 S1 B sky130_fd_pr__nfet_01v8 ad=0.3625 pd=3.08 as=0.18125 ps=1.54 w=1.25 l=1
.ends

.subckt sky130_fd_pr__pfet_01v8_ES5D3S B D0 G0 S1 G1
X0 S1 G0 D0 B sky130_fd_pr__pfet_01v8 ad=0.3625 pd=2.79 as=0.725 ps=5.58 w=2.5 l=1
X1 a_229_n250# G1 S1 B sky130_fd_pr__pfet_01v8 ad=0.725 pd=5.58 as=0.3625 ps=2.79 w=2.5 l=1
.ends

.subckt sky130_fd_pr__nfet_01v8_WNWSEE B D0 G0 S1 G1
X0 S1 G0 D0 B sky130_fd_pr__nfet_01v8 ad=0.3625 pd=2.79 as=0.725 ps=5.58 w=2.5 l=1
X1 a_229_n250# G1 S1 B sky130_fd_pr__nfet_01v8 ad=0.725 pd=5.58 as=0.3625 ps=2.79 w=2.5 l=1
.ends

.subckt sky130_fd_pr__pfet_01v8_G7ACLL B D0 G0 S1 G1 D2 G2 S3 G3 D4 S4 G4
X0 S3 G2 D2 B sky130_fd_pr__pfet_01v8 ad=0.232 pd=1.89 as=0.232 ps=1.89 w=1.6 l=1
X1 S1 G0 D0 B sky130_fd_pr__pfet_01v8 ad=0.232 pd=1.89 as=0.464 ps=3.78 w=1.6 l=1
X2 D2 G1 S1 B sky130_fd_pr__pfet_01v8 ad=0.232 pd=1.89 as=0.232 ps=1.89 w=1.6 l=1
X3 D4 G3 S3 B sky130_fd_pr__pfet_01v8 ad=0.232 pd=1.89 as=0.232 ps=1.89 w=1.6 l=1
X4 S4 G4 D4 B sky130_fd_pr__pfet_01v8 ad=0.464 pd=3.78 as=0.232 ps=1.89 w=1.6 l=1
.ends

.subckt sky130_fd_pr__cap_mim_m3_1_UCYAL9 C2 C1
X0 C1 C2 sky130_fd_pr__cap_mim_m3_1 l=10 w=20
.ends

.subckt opamp6 ibias vneg vpos vout vdd vss
XXM1 VSUBS XM1/D0 ibias XM1/S1 ibias sky130_fd_pr__nfet_01v8_T3GQRW
XXM2 XM2/B XM2/D0 XM4/G1 XM2/S1 XM4/G1 sky130_fd_pr__pfet_01v8_ES5D3S
XXM3 VSUBS XM3/D0 ibias XM3/S1 ibias sky130_fd_pr__nfet_01v8_T3GQRW
XXM4 XM4/B XM4/D0 XM4/G1 XM4/S1 XM4/G1 sky130_fd_pr__pfet_01v8_ES5D3S
XXM5 VSUBS XM5/D0 vneg XM5/S1 vneg sky130_fd_pr__nfet_01v8_WNWSEE
XXM6 VSUBS XM6/D0 vpos XM6/S1 vpos sky130_fd_pr__nfet_01v8_WNWSEE
XXM7 XM7/B XM7/D0 XM7/G0 XM7/S1 XM7/G1 XM7/D2 vout XM7/S3 XM7/G3 XM7/D4 XM7/S4 XM7/G4
+ sky130_fd_pr__pfet_01v8_G7ACLL
XXM8 VSUBS XM8/D0 ibias XM8/S1 ibias sky130_fd_pr__nfet_01v8_WNWSEE
XXC1 vout XC1/C1 sky130_fd_pr__cap_mim_m3_1_UCYAL9
.ends

